US04463172
A 217 mg quantity of m-chloroperbenzoic acid was added to a solution of 662 mg of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-2-em-4-carboxylate in 30 ml of CH2Cl2 at -10° C., and the mixture was stirred at the same temperature for 1 hour. The reaction solution was washed with 10% Na2S2O3 solution and with saturated aqueous NaCl solution, and dried over MgSO4 to distill off the CH2Cl2 under reduced pressure. The residue was added on a column of silica gel, and the fractions eluted with CH2Cl2.AcOEt (5:1) were collected, followed by distilling off the solvent, thus yielding 321 mg (47%) of diphenylmethyl 7-(2-thienylacetamido)-2α-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate 1-oxide.

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-2-em-4-carboxylate | 662 mg | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=C(S2)C)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N6O4S3
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 7-(2-thienylacetamido)-2α-methyl-3-(1-methyl-1H-tetrazol-5-yl)thiomethylceph-3-em-4-carboxylate 1-oxide | 321 mg, 47% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C([C@H](S2=O)C)CSC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N6O5S3
